US04579848
5-(3-Ethynylphenyl)[1,2,4]triazolo[1,5-c]pyrimidin-2-amine
A suspension of 2.0 g of 5-(3-bromophenyl) [1,2,4]triazolo[1,5-c]pyrimidin-2-amine in 45 ml of triethylamine was flushed with argon and stirred 15 minutes. A 17 mg portion of palladium II acetate and 34 mg of triphenyl phosphine were added followed by 1.06 g of ethynyl trimethylsilane. The mixture was heated to reflux, then allowed to stand overnight under argon, then again heated at reflux for 5 hours and then cooled. A 34 mg portion of palladium II acetate, 68 mg of triphenyl phosphine and 2.12 g of ethynyl trimethylsilane were added and this mixture was refluxed 15 hours. The mixture was cooled, evaporated, taken up in 200 ml of chloroform, washed with 100 ml of saturated aqueous potassium bicarbonate, dried, filtered and evaporated giving a brown glass. This glass was taken up in 50 ml of methanol and 200 mg. of anhydrous potassium carbonate were added. This mixture was sealed, stirred overnignt and then evaporated. The residue was taken up in 100 ml of chloroform, washed with 50 ml of dilute aqueous potassium bicarbonate, dried, filtered through hydrous magnesium silicate and evaporated. This solid was crystallized from chloroform-cyclohexane, giving 300 mg of the desired product, mp 170°-172° C.

reactant | 5-(3-bromophenyl) [1,2,4]triazolo[1,5-c]pyrimidin-2-amine | 2.0 g | BrC=1C=C(C=CC1)C1=NC=CC=2N1N=C(N2)N | C11H8BrN5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 45 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 ml | CO | CH4O
product | 5-(3-Ethynylphenyl)[1,2,4]triazolo[1,5-c]pyrimidin-2-amine | 300 mg | C(#C)C=1C=C(C=CC1)C1=NC=CC=2N1N=C(N2)N | C13H9N5
